US03978097
6-Isopropoxyhexanal
7.5 cc (0.132 mol) of dimethyl sulphide are added dropwise at 0°, whilst stirring and under nitrogen, to a solution of 13.4 g (0.10 mol) of N-chlorosuccinimide in 250 cc of absolute toluene. A white precipitate is formed. The reaction mixture is subsequently cooled to -25° and a solution of 8.0 g (0.05 mol) of 6-isopropoxyhexanol in 25 cc of absolute toluene is added over the course of 15 minutes. After stirring at -25° for 90 minutes, a solution of 7.5 g (0.074 mol) of triethylamine in 25 cc of toluene is added over the course of 15 minutes to the white suspension. The cooling bath is then separated and after 10 minutes 500 cc of ether are added. The organic phase is washed with 1% aqueous hydrochloric acid, water and saturated sodium chloride solution, dried over magnesium sulphate and evaporated at 30° /20 mm Hg. After fractional distillation almost pure 6-isopropoxyhexanol is obtained (B.P. 90-93° /15 mm Hg). Said compound may be used for the production of 1-(7-isopropoxy-1-heptenyl)-4 -nitrobenzene without further purification.

reactant | dimethyl sulphide | 0.132 mol, 7.5 cc | CSC | C2H6S
reactant | N-chlorosuccinimide | 0.10 mol, 13.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 6-isopropoxyhexanol | 0.05 mol, 8.0 g | C(C)(C)OCCCCCCO | C9H20O2
reactant | triethylamine | 0.074 mol, 7.5 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 250 cc | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 cc | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 cc | C1(=CC=CC=C1)C | C7H8
product | 6-Isopropoxyhexanal | C(C)(C)OCCCCCC=O | C9H18O2
